US06657060B2
In analogy to example 12c), by heating (E)-3-[2-(4-hydroxy-6-methyl-pyrimidin-2-yl)-vinyl]-benzonitrile (1 g, 4.21 mmol) in POCl3 (7.7 ml, 84.3 mmol) at 130° C. for 4.5 h there was obtained (E)-3-[2-(4-chloro-6-methyl-pyrimidin-2-yl)-vinyl]-benzonitrile (1.07 g, 99%) as an orange solid. EI mass spectrum, m/e: 255 (M calculated for C14H10ClN3: 255).

reactant | (E)-3-[2-(4-hydroxy-6-methyl-pyrimidin-2-yl)-vinyl]-benzonitrile | 4.21 mmol, 1 g | OC1=NC(=NC(=C1)C)/C=C/C=1C=C(C#N)C=CC1 | C14H11N3O
reactant | POCl3 | 84.3 mmol, 7.7 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | (E)-3-[2-(4-chloro-6-methyl-pyrimidin-2-yl)-vinyl]-benzonitrile | 1.07 g, 99% | ClC1=NC(=NC(=C1)C)/C=C/C=1C=C(C#N)C=CC1 | C14H10ClN3
